US08022062B2
5-tert-Butoxycarbonylaminomethyl-2-(3,3-dimethyl-butyryl)-pyridine:
Add manganese dioxide (472 mg, 5.429 mmol) to a solution of 5-tert-butoxycarbonylaminomethyl-2-(1-hydroxy-3,3-diethyl-butyl)-pyridine (118 mg, 0.383 mmol) in anhydrous 1,4-dioxane (5 mL) at room temperature. Heat the reaction mixture at 70° C. overnight. Filter the reaction mixture over Celite® and concentrate in vacuo to obtain the desired intermediate (104 mg, 89%).

reactant | 5-tert-butoxycarbonylaminomethyl-2-(1-hydroxy-3,3-diethyl-butyl)-pyridine | 0.383 mmol, 118 mg | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)C(CC(C)(CC)CC)O | C19H32N2O3
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 5.429 mmol, 472 mg | [O-2].[O-2].[Mn+4]
product | 5-tert-Butoxycarbonylaminomethyl-2-(3,3-dimethyl-butyryl)-pyridine | 104 mg, 89% | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)C(CC(C)(C)C)=O | C17H26N2O3
